US08895582B2
To a solution of (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate (96 mg, 0.19 mmol), 2-(tert-butoxycarbonylamino)acetic acid (51 mg, 0.29 mmol) and HBTU (110 mg, 0.29 mmol) in DMF (1.0 mL) was added DIEA (63 □L, 0.38 mmol). The mixture was stirred at RT for 30 min. The mixture was filtered and the filtrate was purified by RP-HPLC using a mixture of acetonitrile and water to give (6-Fluoro-isoquinolin-3-yl)-carbamic acid (S)-5-(2-tert-butoxycarbonylamino-acetylamino)-2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentyl ester (105 mg, 83%). LRMS (M+Na+) m/z 663.2.

reactant | (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 0.19 mmol, 96 mg | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CCCN)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H26ClF2N5O3
reactant | 2-(tert-butoxycarbonylamino)acetic acid | 0.29 mmol, 51 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HBTU | 0.29 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.38 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (6-Fluoro-isoquinolin-3-yl)-carbamic acid (S)-5-(2-tert-butoxycarbonylamino-acetylamino)-2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentyl ester | 105 mg, 83% | C(C)(C)(C)OC(=O)NCC(=O)NCCC[C@@H](COC(NC=1N=CC2=CC=C(C=C2C1)F)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C31H37ClF2N6O6
